US07396847B2
(5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-[3-fluoro-4-(trimethylstannyl)phenyl]-1,3-oxazolidin-2-one
Using essentially the same procedure as described for (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-[4-(trimethylstannyl)phenyl]-1,3-oxazolidin-2-one, but starting from (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(3-fluoro-4-iodophenyl)-1,3-oxazolidin-2-one (1.97 g, 4.37 mM) gave the title compound as a white solid after chromatography using hexanes then 20% ethyl acetate/hexanes (1.75 g).

reactant | (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-[4-(trimethylstannyl)phenyl]-1,3-oxazolidin-2-one | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)[Sn](C)(C)C
reactant | (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(3-fluoro-4-iodophenyl)-1,3-oxazolidin-2-one | 4.37 mM, 1.97 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)I)F | C16H23FINO3Si
product | (5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-3-[3-fluoro-4-(trimethylstannyl)phenyl]-1,3-oxazolidin-2-one | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)[Sn](C)(C)C)F | InChI=1S/C16H23FNO3Si.3CH3.Sn/c1-16(2,3)22(4,5)20-11-14-10-18(15(19)21-14)13-8-6-7-12(17)9-13;;;;/h6,8-9,14H,10-11H2,1-5H3;3*1H3;/t14-;;;;/m1..../s1
